US05622954
One hundred mL (0.1 mole) of a 1.0 molar solution of 4-chlorophenyl-magnesium bromide in diethyl ether is stirred, and a solution of 11.4 mL (0.1 mole) of 5-oxohexanenitrile in 125 mL of diethyl ether is added dropwise. The exothermic reaction causes the reaction mixture temperature to rise to about 31° C. The reaction mixture is then cooled in an ice-bath, and the dropwise addition of the nitrile solution is continued. The complete addition requires about 30 minutes. Upon completion of addition, the reaction mixture is allowed to warm to ambient temperature where it is stirred for two hours. The reaction mixture is then poured into 500 mL of water and made acidic with aqueous 2N hydrochloric acid. The organic layer is separated, and the aqueous layer is extracted with one 250 mL portion of diethyl ether. The organic layers are combined and dried with magnesium sulfate. The mixture is filtered, and the filtrate is concentrated under reduced pressure to a residual oil. The oil is subjected to column chromatography on silica gel, using methylene chloride as the eluant. The product-containing fractions are combined and concentrated under reduced pressure, yielding 15.0 grams of 5-hydroxy-5-(4-chlorophenyl)hexanenitrile. The NMR spectrum is consistent with the proposed structure.

reactant | 4-chlorophenyl-magnesium bromide | ClC1=CC=C(C=C1)[Mg]Br
reactant | 5-oxohexanenitrile | 0.1 mole, 11.4 mL | O=C(CCCC#N)C | C6H9NO
reactant | water | 500 mL | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 125 mL | C(C)OCC | C4H10O
product | 5-hydroxy-5-(4-chlorophenyl)hexanenitrile | 15.0 grams | OC(CCCC#N)(C)C1=CC=C(C=C1)Cl | C12H14ClNO
